US07977352B2
Racemic-1-(2-Fluoro-4-nitrophenyl)-trans-2,5-dimethylpiperazine (5.71 g, 24.3 mmol) and formalin (24 mL) are dissolved in 70 mL of acetonitrile. The solution is cooled to 0° C. and 2.44 g of NaBH3CN (38.8 mmol) is added in small portions. Acetic acid (2 mL) is added until no further effervescence is observed. The crude reaction mixture is then filtered through a thick plug of silica gel that is rinsed with 10% MeOH in CH2Cl2. Concentration in vacuo gives a yellow solid that is further purified by addition of ethyl acetate and filtration. Concentration in vacuo of the filtrate gave 6.1 g of racemic-1-(2-fluoro-4-nitrophenyl)-trans-2,4,5-trimethylpiperazine as an off-white solid (24.3 mmol, 100%). 1H NMR (300 MHz, CDCl3) δ 1.04 (d, J=4.9 Hz, 1H), 1.07 (d, J=5.2 Hz, 1H), 2.20 (dd, J=11.5, 8.8 Hz, 1H), 2.32 (s, 3H), 2.41-2.50 (m, 1H), 2.65 (dd, J=11.6, 8.9 Hz, 1H), 2.90 (dd, J=11.5, 3.3 Hz, 1H), 3.25 (dd, J=11.8, 3.0 Hz, 1H), 3.44-3.53 (m, 1H), 7.10 (t, J=8.5 Hz, 1H), 7.90 (dd, J=11.5, 2.7 Hz, 1H), 7.95-8.00 (m, 1H). LCMS-ESI (m/z): calcd for C13HBFN3O2, 267.14; [M+H]+ found, 268.2.

reactant | Racemic-1-(2-Fluoro-4-nitrophenyl)-trans-2,5-dimethylpiperazine | 24.3 mmol, 5.71 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1[C@H](CN[C@@H](C1)C)C | C12H16FN3O2
reactant | formalin | 24 mL | C=O | CH2O
reactant | NaBH3CN | 38.8 mmol, 2.44 g | [BH3-]C#N.[Na+]
reactant | Acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | racemic-1-(2-fluoro-4-nitrophenyl)-trans-2,4,5-trimethylpiperazine | 24.3 mmol, 6.1 g, 100% | FC1=C(C=CC(=C1)[N+](=O)[O-])N1[C@H](CN([C@@H](C1)C)C)C | C13H18FN3O2
